US07795262B2
XXXVII. 2-Acetyl-5-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-4,5,6,7-Tetrahydro[1,3]Thiazolo[5,4-C]Pyridine (Scheme 19)
A mixture of 2-bromo-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine (300 mg, 0.75 mmol), tributyl(1-ethoxy-vinyl)tin (361 mg, 1 mmol) and Pd(PPh3)4 (92 mg, 0.08 mmol) in toluene (15 mL) is degassed with argon and heated at 110° C. in a sealed tube overnight. The mixture is cooled and saturated KF solution (10 mL) is added. The mixture is stirred at rt for 30 min, and then the layers are separated. The aqueous layer is extracted with EtOAc (15 ml) and the combined extracts are dried and evaporated. The residue is dissolved in THF (10 mL), 2N HCl (10 mL) is added and the mixture is stirred at rt for 30 min. Solid Na2CO3 is added until pH>7 and the layers are separated. The aqueous layer is extracted with EtOAc (15 ml) and the combined extracts are dried and evaporated. The residue is purified by PTLC to give the title compound as a white solid. MS (M+1): 363.0; 1H NMR (δ, CDCl3): 3.88 (s, 2H), 3.52-3.62 (m, 4H), 3.41 (s, 2H), 2.99 (s, 4H), 2.62-2.77 (m, 4H), 2.29 (q, 4H), 1.66-2.08 (m, 6H).

reactant | 2-bromo-5-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridine | 0.75 mmol, 300 mg | BrC=1SC=2CN(CCC2N1)CC(=O)N1CCN(CC1)C1CCC1 | C16H23BrN4OS
reactant | tributyl(1-ethoxy-vinyl)tin | 1 mmol, 361 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.08 mmol, 92 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Acetyl-5-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-4,5,6,7-Tetrahydro[1,3]Thiazolo[5,4-C]Pyridine | C(C)(=O)C=1SC=2CN(CCC2N1)CC(=O)N1CCN(CC1)C1CCC1 | C18H26N4O2S
